US09216173B2
To a solution of tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(methylsulfanyl)propan-2-yl]carbamate (10.0 g, 28.6 mmol) in methanol (100 mL) was added Oxone (53.1 g, 85.7 mmol) and water (100 mL). The reaction mixture was stirred at ambient temperature for 3 hours and then quenched with 20% aqueous sodium bisulfite solution, diluted with water, and extracted with DCM. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(methylsulfonyl)propan-2-yl]carbamate which was used without further purification. MS ESI calc'd. for C17H22N2O6SNa [M+H]+ 405. found 405. 1H NMR (400 MHz, CD3OD) δ 7.89-7.81 (m, 4H), 4.51-4.48 (m, 1H), 3.88-3.82 (m, 2H), 3.44-3.40 (m, 2H), 3.01 (s, 3H), 1.26 (s, 9H).

reactant | tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(methylsulfanyl)propan-2-yl]carbamate | 28.6 mmol, 10.0 g | O=C1N(C(C2=CC=CC=C12)=O)CC(CSC)NC(OC(C)(C)C)=O | C17H22N2O4S
reactant | Oxone | 85.7 mmol, 53.1 g | OOS(=O)[O-].[K+]
reactant | water | 100 mL | O | H2O
reactant | methanol | 100 mL | CO | CH4O
product | tert-butyl [1-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(methylsulfonyl)propan-2-yl]carbamate | O=C1N(C(C2=CC=CC=C12)=O)CC(CS(=O)(=O)C)NC(OC(C)(C)C)=O | C17H22N2O6S
